2130-04-29 06:58:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Trop increased to 0.11 o/n
   Maintained on small dose of neosynephrine
   Given several 500cc fluid boluses and UOP responded at first but then
   dropped off.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2130-4-28**] 08:30 PM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Phenylephrine - 0.7 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2130-4-28**] 05:20 PM
   Lansoprazole (Prevacid) - [**2130-4-28**] 08:30 PM
   Heparin Sodium (Prophylaxis) - [**2130-4-29**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-4-29**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 65 (62 - 112) bpm
   BP: 112/54(75) {82/43(63) - 117/72(90)} mmHg
   RR: 22 (18 - 35) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                    910 mL
                                                                  1,643 mL
   PO:
             TF:
   IVF:
                                                                    910 mL
                                                                  1,643 mL
   Blood products:
   Total out:
                                                                    625 mL
                                                                    227 mL
   Urine:
                                                                    625 mL
                                                                    227 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    285 mL
                                                                  1,416 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 303 (303 - 303) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 107
   PIP: 26 cmH2O
   Plateau: 17 cmH2O
   Compliance: 40 cmH2O/mL
   SpO2: 100%
   ABG: 7.37/42/157/24/0
   Ve: 8.5 L/min
   PaO2 / FiO2: 393
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   321 K/uL
   12.6 g/dL
   139 mg/dL
   0.9 mg/dL
   24 mEq/L
   4.1 mEq/L
   28 mg/dL
   107 mEq/L
   143 mEq/L
   38.0 %
   9.9 K/uL
        [image002.jpg]
                             [**2130-4-28**]  12:29 PM
                             [**2130-4-28**]  05:36 PM
                             [**2130-4-29**]  04:48 AM
                             [**2130-4-29**]  05:01 AM
   WBC
   9.9
   Hct
   38.0
   Plt
   321
   Cr
   0.9
   TropT
   0.11
   TCO2
   30
   26
   25
   Glucose
   139
   Other labs: PT / PTT / INR:25.9/60.8/2.6, CK / CKMB /
   Troponin-T:76/7/0.11, Differential-Neuts:83.8 %, Lymph:12.3 %, Mono:3.3
   %, Eos:0.4 %, Lactic Acid:1.0 mmol/L, Ca++:8.5 mg/dL, Mg++:1.8 mg/dL,
   PO4:4.3 mg/dL
   Assessment and Plan
   This is an 85 yo F with hx of COPD and severe TR who presents with
   severe SOB, hypoxia, tachypnea and wheezing consistent with COPD
   exacerbation.
   .
   Hypercarbic respiratory failure: Most likely etiology is severe COPD
   flare given her presenting symptoms. There is no sign of infection on
   her CXR, no fever and no increased WBC so infection is less likely.
   There was also likely a component of CHF, possibly diastolic given
   normal EF, in the setting of a.fib with RVR as the increased rate
   likely decreased her diastolic filling time.
   -IV steroids
   -Azithromycin+Ceftriaxone for possible tracheobronchitis.
   -Standing albuterol and atrovent
   -Rate control with IV diltiazem as needed and as tolerated given her
   low BP
   -IV lasix as tolerated given her low BP
   -Ventilation with PEEP of 10 to match her autopeep, TV 6-8cc/kg IBW, RR
   15, decrease FIO2 as tolerated.
   .
   Hypotension: Likely a combination of auto PEEP and sedation. No signs
   of infection to indicate sepsis at this time. Possible cardiac etiology
   as well although EKG with no signs of ischemia.
   -Volume resuscitate based on UOP
   -Peripheral phenylephrine for now and ween quickly. If not able to
   ween, consider central line.
   -Trend CEZ
   .
   A.fib: Improved rate control now. Likely stimulated from adrenergic
   surge during acute respiratory event and now improved after intubation.
   -Con't Digoxin, check dig level in am
   -PRN IV diltiazem if rate becomes uncontrolled again.
   -Allow coumadin to drift and consider starting heparin gtt if gets
   below 2 for consideration of procedures
   .
   Depression: Con't home regimen
   .
   Gout: Con't colchicine, monitor renal function.
   .
   FEN: Nutrition consult and TF to start in am, IVF prn
   .
   PPX: Coumadin, PPI
   .
   Code: DNR but not DNI
   .
   Contact: Daughter [**Name (NI) 2118**] (HCP), home [**Telephone/Fax (1) 6879**], cell [**Telephone/Fax (1) 6880**]
   .
   Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2130-4-28**] 11:47 AM
   Arterial Line - [**2130-4-28**] 03:07 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2130-04-29 10:08:00 Physician Attending Progress Note
Chief Complaint: Hypercarbic failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   85 yo female with severe COPD admitted with COPD exacerbation. On floor
   went into rapid afib then developed acute resp failure requiring
   intubation
   24 Hour Events:
 INVASIVE VENTILATION - START [**2130-4-28**] 11:05 AM
 SPUTUM CULTURE - At [**2130-4-28**] 11:49 AM
 ARTERIAL LINE - START [**2130-4-28**] 03:07 PM
   *Small amt of neosynephrine needed post-intubation
   *Fluids given to maintain urine output
   History obtained from Medical records, ICU housestaff
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2130-4-28**] 08:30 PM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2130-4-28**] 05:20 PM
   Lansoprazole (Prevacid) - [**2130-4-28**] 08:30 PM
   Heparin Sodium (Prophylaxis) - [**2130-4-29**] 12:30 AM
   Other medications:
   colchicine, donzepil, atrovent, duloxetine,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-4-29**] 10:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98
   HR: 71 (62 - 112) bpm
   BP: 102/51(71) {82/43(63) - 119/72(90)} mmHg
   RR: 20 (18 - 35) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                    910 mL
                                                                  1,669 mL
   PO:
             TF:
   IVF:
                                                                    910 mL
                                                                  1,669 mL
   Blood products:
   Total out:
                                                                    625 mL
                                                                    327 mL
   Urine:
                                                                    625 mL
                                                                    327 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    285 mL
                                                                  1,342 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 303 (303 - 303) mL
   RR (Set): 16
   RR (Spontaneous): 6
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 107
   PIP: 26 cmH2O
   Plateau: 18 cmH2O
   Compliance: 36.4 cmH2O/mL
   SpO2: 100%
   ABG: 7.37/42/157/24/0
   Ve: 7.2 L/min
   PaO2 / FiO2: 393
   Physical Examination
   General Appearance: Well nourished, No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ),
   distant bs
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: No(t) Cyanosis, No(t) Clubbing, ecchymoses bilateral
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Normal
   Labs / Radiology
   12.6 g/dL
   321 K/uL
   139 mg/dL
   0.9 mg/dL
   24 mEq/L
   4.1 mEq/L
   28 mg/dL
   107 mEq/L
   143 mEq/L
   38.0 %
   9.9 K/uL
        [image002.jpg]
                             [**2130-4-28**]  12:29 PM
                             [**2130-4-28**]  05:36 PM
                             [**2130-4-29**]  04:48 AM
                             [**2130-4-29**]  05:01 AM
   WBC
   9.9
   Hct
   38.0
   Plt
   321
   Cr
   0.9
   TropT
   0.11
   TCO2
   30
   26
   25
   Glucose
   139
   Other labs: PT / PTT / INR:25.9/60.8/2.6, CK / CKMB /
   Troponin-T:76/7/0.11, Differential-Neuts:83.8 %, Lymph:12.3 %, Mono:3.3
   %, Eos:0.4 %, Lactic Acid:1.0 mmol/L, Ca++:8.5 mg/dL, Mg++:1.8 mg/dL,
   PO4:4.3 mg/dL
   Imaging: CXR reviewed: no new infiltrates, right paratracheal thickness
   (has known goiter)
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   85 yo female with COPD admitted with hypercarbic resp failure
   1. Resp failure: appears secondary to COPD exacerbation
   *On nebs, solumedrol, CTX/azithromycin
   *Blood gas improved and Pt waking up- will attempt SBT today
   2. Rapid afib: no further recurrence since pt was intubated- appears
   due to acute resp failure causing sympathetic surge. Continue to
   monitor; continue digoxin. Add beta blocker for rate control.
   3. Elevated CK's: troponin up to 1.1. Under circumstances, this looks
   related to demand ischemia rather than an acute thrombotic event.
   Continue cycling cardiac enzymes. Pt on ASA
   4. Hypotension: overnight, required neo gtt for BP. THis occurred
   post-intubation and was likely due to a combintation of sedation and
   PEEP (auto-PEEP). Now off neo. Continue to maintain MAP>65
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2130-4-28**] 11:47 AM
   Arterial Line - [**2130-4-28**] 03:07 PM
   Prophylaxis:
   DVT: (anticoagulated (coumadin))
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2130-04-30 07:14:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: hypercarbic respiratory failure
   24 Hour Events:
   - Patient did tolerate pressure support well
   - Patient had NSTEMI.  Started on ASA, Beta blocker, High Dose Statin.
   Patient therapeutically anticoagulated on coumadin
   - EKG showed infero-lateral T wave inversions.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2130-4-29**] 08:00 PM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Phenylephrine - 0.5 mcg/Kg/min
   Other ICU medications:
   Metoprolol - [**2130-4-29**] 10:19 AM
   Lansoprazole (Prevacid) - [**2130-4-29**] 08:00 PM
   Morphine Sulfate - [**2130-4-29**] 08:20 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-4-30**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.7
C (96.3
   HR: 57 (57 - 118) bpm
   BP: 112/44(69) {72/31(48) - 154/75(106)} mmHg
   RR: 17 (16 - 32) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                  1,787 mL
                                                                    108 mL
   PO:
             TF:
   IVF:
                                                                  1,787 mL
                                                                    108 mL
   Blood products:
   Total out:
                                                                  1,142 mL
                                                                    310 mL
   Urine:
                                                                  1,142 mL
                                                                    310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    645 mL
                                                                   -202 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 307 (0 - 307) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 66
   PIP: 20 cmH2O
   Plateau: 17 cmH2O
   Compliance: 37.7 cmH2O/mL
   SpO2: 99%
   ABG: 7.34/45/102/23/-1
   Ve: 5.5 L/min
   PaO2 / FiO2: 255
   Physical Examination
   Gen: Sedated on vent, responds to stimuli but does not follow commands
   Heart: irregular, II/VI systolic murmur
   Lungs: Decreased breath sounds diffusely, scant wheezing
   Abd: Soft, NT, ND, BS+
   Ext: No LE edema
   Labs / Radiology
   317 K/uL
   12.5 g/dL
   126 mg/dL
   0.8 mg/dL
   23 mEq/L
   4.1 mEq/L
   38 mg/dL
   111 mEq/L
   147 mEq/L
   38.5 %
   11.6 K/uL
        [image002.jpg]
                             [**2130-4-28**]  12:29 PM
                             [**2130-4-28**]  05:36 PM
                             [**2130-4-29**]  04:48 AM
                             [**2130-4-29**]  05:01 AM
                             [**2130-4-29**]  02:36 PM
                             [**2130-4-29**]  10:15 PM
                             [**2130-4-30**]  04:32 AM
                             [**2130-4-30**]  04:49 AM
   WBC
   9.9
   11.6
   Hct
   38.0
   38.5
   Plt
   321
   317
   Cr
   0.9
   0.8
   0.8
   TropT
   0.11
   0.34
   0.20
   TCO2
   30
   26
   25
   25
   Glucose
   139
   120
   126
   Other labs: PT / PTT / INR:28.0/34.3/2.8, CK / CKMB /
   Troponin-T:80/11/0.20, Differential-Neuts:83.8 %, Lymph:12.3 %,
   Mono:3.3 %, Eos:0.4 %, Lactic Acid:1.0 mmol/L, Ca++:8.4 mg/dL, Mg++:2.0
   mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   This is an 85 yo F with Hx of COPD w/ hypercarbic respiratory failure.
   .
   Hypercarbic respiratory failure: Improved on vent w/ PEEP but becomes
   tachypneic when off of PEEP.  Patient was not able to tolerate pressure
   support and likely had NSTEMI as a result of the stress.  Patient will
   likely not improve post-extubation.
   - Continue IV steroids
   - Continue Azithromycin+Ceftriaxone for possible tracheobronchitis.
   - Standing albuterol and atrovent
   -d/w family goals of care
   .
   s/p NSTEMI:  Patient
s peak CK was 86 yesterday at 2pm and was started
   on ASA, BB, Statin.  Patient was therapeutically anticoaulgated with
   Coumadin.  Likely secondary to pressure support trial stress.
   Patient
s BPs have been unstable with increased sedation, however
   patient is hypertensive off sedation.
   -          Cont ASA, BB, Statin
   -          Wean sedation as tolerated
   -          Esmolol for HR < 90
   .
   A.fib: Rate controlled.
   -Con't Digoxin,
   - Esmolol for HR < 90
   .
   #ARF: Resolved
   .
   Depression: Con't home regimen
   .
   Gout: Con't colchicine, monitor renal function.
   .
   FEN: NPO for now
   .
   PPX: Coumadin, PPI
   .
   Code: DNR but not DNI.  Will need to discuss goals of care.
   .
   Contact: Daughter [**Name (NI) 2118**] (HCP), home [**Telephone/Fax (1) 6879**], cell [**Telephone/Fax (1) 6880**]
   .
   Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2130-4-28**] 11:47 AM
   Arterial Line - [**2130-4-28**] 03:07 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2130-04-30 10:04:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   85 yo female admitted with acute respiratory failure from COPD
   exacerbation /rapid afib
   24 Hour Events:
   *SBT attempted but poorly tolerated due to tachypnea, tachycardia, and
   diaphoresis
   *With resumption of mech ventilation/sedation, BP's dropped again and
   she was put back on neo
   *NSTEMI with peak CK at 2:30 pm; New inferolateral St-T wave inversions
   on EKG-- ASA and statin added
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2130-4-29**] 08:00 PM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Phenylephrine - 0.5 mcg/Kg/min
   Other ICU medications:
   Metoprolol - [**2130-4-29**] 10:19 AM
   Lansoprazole (Prevacid) - [**2130-4-29**] 08:00 PM
   Morphine Sulfate - [**2130-4-29**] 08:20 PM
   Other medications:
   solumedrol, digoxin, chlohexidine, neo gtt, alb/atrov, SSI, nicotinee
   patch, wellbutrin, duloxetine, pregabalin,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-4-30**] 09:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.7
C (96.2
   HR: 57 (54 - 118) bpm
   BP: 145/61(92) {72/31(48) - 154/75(106)} mmHg
   RR: 16 (16 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                  1,787 mL
                                                                    146 mL
   PO:
             TF:
   IVF:
                                                                  1,787 mL
                                                                    146 mL
   Blood products:
   Total out:
                                                                  1,142 mL
                                                                    410 mL
   Urine:
                                                                  1,142 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    645 mL
                                                                   -264 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 307 (0 - 307) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 2
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 66
   PIP: 24 cmH2O
   Plateau: 18 cmH2O
   Compliance: 34.5 cmH2O/mL
   SpO2: 100%
   ABG: 7.34/45/102/23/-1
   Ve: 6 L/min
   PaO2 / FiO2: 255
   Physical Examination
   Frail, elderly female, agitated, constantly sitting up and shifting
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4, irreg irreg
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   scattered rhonchi and wheezing with prolonged expiration and early
   termination
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Sedated, No(t) Paralyzed,
   Tone: Normal
   Labs / Radiology
   12.5 g/dL
   317 K/uL
   126 mg/dL
   0.8 mg/dL
   23 mEq/L
   4.1 mEq/L
   38 mg/dL
   111 mEq/L
   147 mEq/L
   38.5 %
   11.6 K/uL
        [image002.jpg]
                             [**2130-4-28**]  12:29 PM
                             [**2130-4-28**]  05:36 PM
                             [**2130-4-29**]  04:48 AM
                             [**2130-4-29**]  05:01 AM
                             [**2130-4-29**]  02:36 PM
                             [**2130-4-29**]  10:15 PM
                             [**2130-4-30**]  04:32 AM
                             [**2130-4-30**]  04:49 AM
   WBC
   9.9
   11.6
   Hct
   38.0
   38.5
   Plt
   321
   317
   Cr
   0.9
   0.8
   0.8
   TropT
   0.11
   0.34
   0.20
   TCO2
   30
   26
   25
   25
   Glucose
   139
   120
   126
   Other labs: PT / PTT / INR:28.0/34.3/2.8, CK / CKMB /
   Troponin-T:80/11/0.20, Differential-Neuts:83.8 %, Lymph:12.3 %,
   Mono:3.3 %, Eos:0.4 %, Lactic Acid:1.0 mmol/L, Ca++:8.4 mg/dL, Mg++:2.0
   mg/dL, PO4:3.8 mg/dL
   Imaging: CXR: no new infiltrates
   ECG: EKG yesterday with new onset TWI inf. II, III, V3-4
   Assessment and Plan
   85 yo female with COPD exacerbation/hypercarbic failure, also with
   evolving NSTEMI
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])/COPD acute exacerbation
   Reasonable oxygenation and ventilation on current vent settings-plan
   continued mechanical ventilation
   No plans for weaning vent today given evolving NSTEMI and difficulty
   weaning sedation without agitation/tachycardia
   Continues on alb/atrov ; solumedrol, CTX/azithro
   NSTEMI: MB index continuing to increase this morning
   On ASA,  anticoagulation, high dose statin
   Possible beta-blocker if BP improves enough to tolerate
   Hypotension
   Has intermittently required pressors while intubated- directly tied to
   level of sedation.
   Continue to keep MAP>60
   Hypernatremia: start free water and re-check
lytes this afternoon
   With new NSTEMI, inability to decrease sedation without development of
   tachycardia/agitation, concerned that pt will not be able to be weaned
   off ventilator quickly. Family coming in today and will discuss overall
   progress/prognosis and future goals
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2130-4-28**] 11:47 AM
   Arterial Line - [**2130-4-28**] 03:07 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent:
   Patient is critically ill

2130-05-01 07:14:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:  COPD w/ hypercarbic respiratory failure.
   24 Hour Events:
   -made CMO
   -pt extubated
   -morphine gtt started
   -ativan PRN
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2130-4-29**] 08:00 PM
   Infusions:
   Morphine Sulfate - 10 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2130-4-30**] 10:00 AM
   Lorazepam (Ativan) - [**2130-4-30**] 01:35 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-5-1**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.7
C (96.2
   Tcurrent: 35.7
C (96.2
   HR: 111 (53 - 111) bpm
   BP: 82/41(56) {82/41(56) - 145/61(92)} mmHg
   RR: 9 (9 - 20) insp/min
   SpO2: 73%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    608 mL
                                                                    108 mL
   PO:
             TF:
   IVF:
                                                                    608 mL
                                                                    108 mL
   Blood products:
   Total out:
                                                                    510 mL
                                                                      0 mL
   Urine:
                                                                    510 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     98 mL
                                                                    108 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 16
   RR (Spontaneous): 4
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 25 cmH2O
   Plateau: 17 cmH2O
   SpO2: 73%
   ABG: ////
   Ve: 5.8 L/min
   Physical Examination
   General:  Patient lying in bed, NAD
   Rest of Exam deferred as patient is Comfort measures
   Labs / Radiology
   317 K/uL
   12.5 g/dL
   126 mg/dL
   0.8 mg/dL
   23 mEq/L
   4.1 mEq/L
   38 mg/dL
   111 mEq/L
   147 mEq/L
   38.5 %
   11.6 K/uL
        [image002.jpg]   [**4-30**] Labs.  No labs from [**5-1**].
                             [**2130-4-28**]  12:29 PM
                             [**2130-4-28**]  05:36 PM
                             [**2130-4-29**]  04:48 AM
                             [**2130-4-29**]  05:01 AM
                             [**2130-4-29**]  02:36 PM
                             [**2130-4-29**]  10:15 PM
                             [**2130-4-30**]  04:32 AM
                             [**2130-4-30**]  04:49 AM
   WBC
   9.9
   11.6
   Hct
   38.0
   38.5
   Plt
   321
   317
   Cr
   0.9
   0.8
   0.8
   TropT
   0.11
   0.34
   0.20
   0.15
   TCO2
   30
   26
   25
   25
   Glucose
   139
   120
   126
   Assessment and Plan
   This is an 85 yo F with Hx of COPD w/ hypercarbic respiratory failure.
   .
   Hypercarbic respiratory failure: Improved on vent w/ PEEP but becomes
   tachypneic when off of PEEP.  Patient was not able to tolerate pressure
   support and likely had NSTEMI as a result of the stress.  Patient will
   likely not improve post-extubation.
   - Continue IV steroids
   - Continue Azithromycin+Ceftriaxone for possible tracheobronchitis.
   - Standing albuterol and atrovent
   -d/w family goals of care
   .
   s/p NSTEMI:  Patient
s peak CK was 86 yesterday at 2pm and was started
   on ASA, BB, Statin.  Patient was therapeutically anticoaulgated with
   Coumadin.  Likely secondary to pressure support trial stress.
   Patient
s BPs have been unstable with increased sedation, however
   patient is hypertensive off sedation.
   -          Cont ASA, BB, Statin
   -          Wean sedation as tolerated
   -          Esmolol for HR < 90
   .
   A.fib: Rate controlled.
   -Con't Digoxin,
   - Esmolol for HR < 90
   .
   #ARF: Resolved
   .
   Depression: Con't home regimen
   .
   Gout: Con't colchicine, monitor renal function.
   .
   FEN: NPO for now
   .
   PPX: Coumadin, PPI
   .
   Code: DNR but not DNI.  Will need to discuss goals of care.
   .
   Contact: Daughter [**Name (NI) 2118**] (HCP), home [**Telephone/Fax (1) 6879**], cell [**Telephone/Fax (1) 6880**]
   .
   Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2130-4-28**] 11:47 AM
   Arterial Line - [**2130-4-28**] 03:07 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: